US07179823B1
Sodium hydride (60%, oily, 36.0 mg) was added to a solution of ethyl 3-[1-(6-hydroxy-2-naphthylmethyl)-4-phenyl-3-pyrrolyl]propionate (360 mg) in N,N-dimethylformamide (10 ml) at 0° C., and the mixture was stirred at room temperature for 15 minutes. 2-Fluorobenzyl chloride (0.119 ml) was added to this mixture, which was stirred at room temperature for 1 hour. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatograpy, and ethyl 3-[1-[6-(2-fluorobenzyloxy)-2-naphthylmethyl]-4-phenyl-3-pyrrolyl]propionate (404 mg, yield: 88%) was obtained as an oily substance from the fraction eluted with ethyl acetate-hexane (1:3, volume ratio).

reactant | Sodium hydride | 36.0 mg | [H-].[Na+]
reactant | ethyl 3-[1-(6-hydroxy-2-naphthylmethyl)-4-phenyl-3-pyrrolyl]propionate | 360 mg | OC=1C=C2C=CC(=CC2=CC1)CN1C=C(C(=C1)C1=CC=CC=C1)CCC(=O)OCC | C26H25NO3
reactant | 2-Fluorobenzyl chloride | 0.119 ml | FC1=C(CCl)C=CC=C1 | C7H6ClF
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[1-[6-(2-fluorobenzyloxy)-2-naphthylmethyl]-4-phenyl-3-pyrrolyl]propionate | 404 mg, yield: 88% | FC1=C(COC=2C=C3C=CC(=CC3=CC2)CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=CC=C1 | C33H30FNO3
